US07259266B2
Step 1. Preparation of ethyl 8-prop-1-ynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a Parr bottle containing a mixture of ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 21 a, Step 2 (0.500 g, 1.04 mmole), CuI (20 mg, 0.104 mmole), PdCl2(dppf)2.CH2Cl2 (84.5 mg, 0.104 mmole) and TEA (434 uL, 3.11 mmole) in anhydrous toluene (10 mL) was added at −78° C. propyne (2 ml) and the bottle was sealed. After stirring for 23 h at room temperature, an additional propyne (5 ml) was added and the mixture was stirred an additional 23 h at room temperature. Additional PdCl2(dppf)2.CH2Cl2 (120 mg, 0.147 mmole) was added and the mixture was stirred at room temperature for an additional 24 h. The mixture was then poured into brine (100 mL) and extracted with EtOAc (200 mL). The EtOAc layer was separated, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by silica chromatography (9:1 hexanes:EtOAc) to give 0.363 g (89% yield) of the product as a yellow crystalline solid: EIHRMS m/z 394.0644 (M+, C17H12F6O4, Calc'd 394.0640).

reactant | ethyl 8-iodo-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | IC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C14H9F6IO4
reactant | CH2Cl2 | 0.104 mmole, 84.5 mg | C(Cl)Cl | CH2Cl2
reactant | propyne | 2 ml | C#CC | C3H4
reactant | propyne | 5 ml | C#CC | C3H4
reactant | CH2Cl2 | 0.147 mmole, 120 mg | C(Cl)Cl | CH2Cl2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | 100 mL | [Cl-].[Na+].O
catalyst | CuI | 0.104 mmole, 20 mg | [Cu]I
catalyst | PdCl2(dppf)2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 8-prop-1-ynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.363 g, 89% yield | C(#CC)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C17H12F6O4
